US08686150B2
8-Methyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester was synthesized in analogy to 8,8-Dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester starting from 1,2-diamino-propane and 1-hydroxycyclopentane-1-carbonitrile.

reactant | 8,8-Dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CNC2(CCCC2)C1)(C)C | C15H28N2O2
reactant | 1,2-diamino-propane | NCC(C)N | C3H10N2
reactant | 1-hydroxycyclopentane-1-carbonitrile | OC1(CCCC1)C#N | C6H9NO
product | 8-Methyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CNC2(CCCC2)C1)C | C14H26N2O2
